US04294960
4-Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-isobutoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 14.2 g.), 10% palladium carbon (5.7 g.), methanol (57 ml.), tetrahydrofuran (142 ml.), acetic acid (1 ml.) and water (10 ml.) were treated in a similar manner to that of Example 15-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-isobutoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 4.25 g.).

reactant | 4-Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-isobutoxyiminoacetamido]-3-cephem-4-carboxylate | 14.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(C)C | C24H24N6O8S2
reactant | methanol | 57 ml | CO | CH4O
reactant | tetrahydrofuran | 142 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 5.7 g | [C].[Pd]
solvent | water | 10 ml | O | H2O
product | 7-[2-(2-formamidothiazol-4-yl)-2-isobutoxyiminoacetamido]-3-cephem-4-carboxylic acid | 4.25 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(C)C | C17H19N5O6S2
